US08466289B2
Synthesis of Intermediate 7-(2-Fluoro-4-iodo-phenylamino)-8-nitro-2,3-dihydro-thiazolo[3,2-a]pyridin-5-one (I-27c)
Trifluoro-methanesulfonic acid 8-nitro-5-oxo-2,3-dihydro-5H-thiazolo[3,2-a]pyridin-7-yl ester (0.6 g, 1.7 mmol) was reacted with 2-fluoro-4-iodo-phenylamine (0.45 g, 1.9 mmol), Pd(OAc)2 (38 mg, 0.17 mmol), BINAP (0.1 g, 0.17 mmol) and cesium carbonate (0.84 g, 2.6 mmol) in toluene (20 mL) at reflux for 3 hours to afford the crude product. Purification by column chromatography on silica gel (30% ethylacetate in hexane) afforded 90 mg of the product (12% yield).

reactant | Trifluoro-methanesulfonic acid 8-nitro-5-oxo-2,3-dihydro-5H-thiazolo[3,2-a]pyridin-7-yl ester | 1.7 mmol, 0.6 g | [N+](=O)([O-])C1=C2N(C(C=C1OS(=O)(=O)C(F)(F)F)=O)CCS2 | C8H5F3N2O6S2
reactant | 2-fluoro-4-iodo-phenylamine | 1.9 mmol, 0.45 g | FC1=C(C=CC(=C1)I)N | C6H5FIN
reactant | BINAP | 0.17 mmol, 0.1 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 2.6 mmol, 0.84 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.17 mmol, 38 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 7-(2-Fluoro-4-iodo-phenylamino)-8-nitro-2,3-dihydro-thiazolo[3,2-a]pyridin-5-one | 90 mg, 12% yield | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1)=O)CCS2)[N+](=O)[O-] | C13H9FIN3O3S
